US09079919B2
(R)—N-(2′-Amino-5′,5′-difluoro-4,4-dimethyl-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)-5-cyanopicolinamide
The condensation of (R)-5′,5′-difluoro-4,4-dimethyl-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-2′,7-diamine (intermediate A7.2) and 5-cyanopicolinic acid yielded the title compound (65% yield) as a pale yellow solid. MS (ISP): m/z=426.0 [M+H]+.

reactant | (R)-5′,5′-difluoro-4,4-dimethyl-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-2′,7-diamine | FC1([C@@]2(N=C(OC1)N)CCC(C1=CC=C(C=C12)N)(C)C)F | C15H19F2N3O
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | (R)—N-(2′-Amino-5′,5′-difluoro-4,4-dimethyl-3,4,5′,6′-tetrahydro-2H-spiro[naphthalene-1,4′-[1,3]oxazine]-7-yl)-5-cyanopicolinamide | 65% yield | NC=1OCC([C@@]2(N1)CCC(C1=CC=C(C=C12)NC(C1=NC=C(C=C1)C#N)=O)(C)C)(F)F | C22H21F2N5O2
